US07241760B2
4-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyrimidine
The title compound, MS: m/e=294.1/296.1 (M+H+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 4-chloro-pyrimidine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 4-chloro-pyrimidine | ClC1=NC=NC=C1 | C4H3ClN2
product | 4-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-pyrimidine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C1=NC=NC=C1)C | C16H11ClN4
